US04400381
To 1 liter 50% aqueous alcohol are added 3 moles piperazine, 1 mole 3-phenylthio-1-chloropropane, 1 mole 10N sodium hydroxide. The mixture is refluxed for 24 hours, with stirring. The methanol is then evaporated off, and the resulting material is extracted with methylene chloride. The organic phase is thoroughly washed with water, and is then concentrated and distilled, to give 1-(3-phenylthiopropyl)piperazine, bp0.5 mm =140°-142° C.

reactant | piperazine | 3 moles | N1CCNCC1 | C4H10N2
reactant | 3-phenylthio-1-chloropropane | 1 mole | C1(=CC=CC=C1)SCCCCl | C9H11ClS
reactant | sodium hydroxide | 1 mole, 10N | [OH-].[Na+]
product | 1-(3-phenylthiopropyl)piperazine | C1(=CC=CC=C1)SCCCN1CCNCC1 | C13H20N2S
